### PR TITLE
feat: simp-lemmas about `BitVec.cast`

### PR DESCRIPTION
**Pull request by alexkeizer**
Adds a few simple simp-lemmas about `BitVec.cast`.

Also changes the two existing lemmas (`toNat_cast` and `getLsb_cast`) to be more consistent. In particular, `getLsb_cast` now takes it's proof of width-equality explicitly, just like `toNat_cast` already does, and the variable names have been aligned.

### CODE REVIEW

**Review by bollu — APPROVED** [review]
LGTM.

File: Std/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -122,11 +122,21 @@ private theorem lt_two_pow_of_le {x m n : Nat} (lt : x < 2 ^ m) (le : m ≤ n) :
...
-  simp
+@[simp] theorem toNat_cast : (cast h x).toNat = x.toNat := rfl
+@[simp] theorem toFin_cast : (cast h x).toFin = x.toFin.cast (by rw [h]) := rfl
+
+@[simp] theorem getLsb_cast : (cast h x).getLsb i = x.getLsb i := by
+  subst h ; simp
+
+@[simp] theorem getMsb_cast : (cast h x).getMsb i = x.getMsb i := by
+  subst h ; simp
+@[simp] theorem msb_cast : (cast h x).msb = x.msb := by
```
Comment (bollu) [inline Std/Data/BitVec/Lemmas.lean:136]: I guess the spacing is intentional to group similar lemmas?

Comment (alexkeizer) [reply Std/Data/BitVec/Lemmas.lean:136]: Indeed

**Comment by alexkeizer** [comment]
opened a PR upstream
